US07872009B2
Step 1: 6-oxo-1-phenyl-1,6-dihydropyridazine-3-carboxylic acid
4-chloro-6-oxo-1-phenyl-1,6-dihydropyridazine-3-carboxylic acid (100 mg, 0.4 mmol) was dissolved in 3 ml EtOH and Pd/C (25 mg) was added. A H2 balloon was attached to the reaction vessel and the mixture was stirred for 4 h. The reaction was filtered through a pad of Celite®, concentrated and used without further purification in the next reaction. MS m/z: 217(100%, M+1)).

reactant | 4-chloro-6-oxo-1-phenyl-1,6-dihydropyridazine-3-carboxylic acid | 0.4 mmol, 100 mg | ClC=1C(=NN(C(C1)=O)C1=CC=CC=C1)C(=O)O | C11H7ClN2O3
solvent | EtOH | 3 ml | CCO | C2H6O
catalyst | Pd/C | 25 mg | [Pd] | Pd
product | 6-oxo-1-phenyl-1,6-dihydropyridazine-3-carboxylic acid | O=C1C=CC(=NN1C1=CC=CC=C1)C(=O)O | C11H8N2O3
